US06448242B1
Preparation of 1,4-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]cyclohexane dihydrochloride
Concentrated hydrochloric acid (0.050 ml; 0.60 mmol) was added to a solution of the crude crystals of 1,4-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]cyclohexane (118 mg; 0.14 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from chloroform-methanol-diethyl ether to obtain 105 mg (yield: 58%) of the title compound as a pale yellow crystalline powder.

reactant | hydrochloric acid | 0.60 mmol, 0.050 ml | Cl | ClH
reactant | 1,4-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]cyclohexane | 0.14 mmol, 118 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CC2CCC(CC2)CN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C48H60N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-bis[[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]methyl]cyclohexane dihydrochloride | 105 mg, yield: 58% | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CC2CCC(CC2)CN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | InChI=1S/C48H60N4O8.2ClH/c1-55-41-27-39(28-42(56-2)45(41)59-5)35-11-15-37(16-12-35)47(53)51-23-19-49(20-24-51)31-33-7-9-34(10-8-33)32-50-21-25-52(26-22-50)48(54)38-17-13-36(14-18-38)40-29-43(57-3)46(60-6)44(30-40)58-4;;/h11-18,27-30,33-34H,7-10,19-26,31-32H2,1-6H3;2*1H
